US05608069
A mixture of hydroxylammonium chloride (10.84 g, 0.156 mol) and potassium carbonate (21.56 g, 156 mmol) in absolute ethanol (100 ml) was stirred for 2 h. The precipitated sodium chloride was filtered off and 2-phenyl-2-pentenal (5.00 g, 31 mmol) was added to the filtrate. The mixture was stirred at ambient temperature for 16 h. The solvent was evaporated in vacuo, the residue was crystallised from aqueous ethanol to give 4.09 g 2-phenyl-2-pentenal oxime.

reactant | hydroxylammonium chloride | 0.156 mol, 10.84 g | [Cl-].O[NH3+]
reactant | potassium carbonate | 156 mmol, 21.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-phenyl-2-pentenal | 31 mmol, 5.00 g | C1(=CC=CC=C1)C(C=O)=CCC | C11H12O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-phenyl-2-pentenal oxime | 4.09 g | C1(=CC=CC=C1)C(C=NO)=CCC | C11H13NO
